US05654307
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (234 mg, 1.22 mmol) (described in a previous experimental) and 3-aminobenzotrifluoride (2.00 mL, 16.0 mmol) is stirred under N2 at 190°-200° C. for 2 h, and the resulting product is then chromatographed over silica gel (5-10% EtOH/EtOAc), and then over alumina (5-7% EtOH/CHCl3) to give 7-amino-4-(3-trifluoromethylanilino)pyrido[4,3-d]pyrimidine (157 mg, 42%) as a cream solid. 1H NMR (DMSO) δ 10.04 (1H, s), 9.37 (1H, s), 8.46 (1H, s), 8.31 (1H, s), 8.19 (1H, d, J=8.2 Hz), 7.62 (1H, t, J=8.0 Hz), 7.45 (1H, d, J=7.7 Hz), 6.69 (2H, brs), 6.47 (1H, s).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 1.22 mmol, 234 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 3-aminobenzotrifluoride | 16.0 mmol, 2.00 mL | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
product | 7-amino-4-(3-trifluoromethylanilino)pyrido[4,3-d]pyrimidine | 157 mg, 42% | NC1=CC=2N=CN=C(C2C=N1)NC1=CC(=CC=C1)C(F)(F)F | C14H10F3N5
